** sch_path: /foss/designs/PROJECTS/os-ina-pso-mixdes_2026/Xschem Simulations/5T-OTA/tb_5t-ota_ac.sch
**.subckt tb_5t-ota_ac
XM1 Vx Vip Vc Vc sky130_fd_pr__nfet_01v8 L=L_1 W=W_1 nf=1 ad='int((1 + 1)/2) * W_1 / 1 * 0.29' as='int((1 + 2)/2) * W_1 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_1 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_1 / 1 + 0.29)' nrd='0.29 / W_1 ' nrs='0.29 / W_1 ' sa=0 sb=0 sd=0
+ mult=1 m=1
XM2 Vout Vin Vc Vc sky130_fd_pr__nfet_01v8 L=L_1 W=W_1 nf=1 ad='int((1 + 1)/2) * W_1 / 1 * 0.29' as='int((1 + 2)/2) * W_1 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_1 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_1 / 1 + 0.29)' nrd='0.29 / W_1 ' nrs='0.29 / W_1 ' sa=0 sb=0 sd=0
+ mult=1 m=1
I0 Vc GND ID
Vvip Vip GND dc 0.9 ac 0.5
Vvin Vin GND dc 0.9 ac -0.5
C1 GND Vout 2p m=1
XM3 Vx Vx VDD VDD sky130_fd_pr__pfet_01v8 L=L_2 W=W_2 nf=1 ad='int((1 + 1)/2) * W_2 / 1 * 0.29' as='int((1 + 2)/2) * W_2 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_2 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_2 / 1 + 0.29)' nrd='0.29 / W_2 ' nrs='0.29 / W_2 ' sa=0 sb=0 sd=0
+ mult=1 m=1
XM4 Vout Vx VDD VDD sky130_fd_pr__pfet_01v8 L=L_2 W=W_2 nf=1 ad='int((1 + 1)/2) * W_2 / 1 * 0.29' as='int((1 + 2)/2) * W_2 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (W_2 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (W_2 / 1 + 0.29)' nrd='0.29 / W_2 ' nrs='0.29 / W_2 ' sa=0 sb=0 sd=0
+ mult=1 m=1
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt



.param temp=25
.option savecurrents
Vvdd VDD 0 1.8
.param W_1=0.42
.param W_2=0.42
.param L_1=0.5
.param L_2=0.6
.param ID=2.3916u
.control
  save all
  op
  write tb_5t-ota_ac.raw
.endc




.control
  ac dec 20 0.1 1G
  save all

  let gain = v(vout) / (v(vip) - v(vin))
  let db_gain = db(gain)
  let deg_phase = 180*cph(v(vout))/pi

  meas ac gain_DC FIND db_gain AT=1

  meas ac gbw_freq WHEN db_gain=0 FALL=1
  let gbw_Mfreq = gbw_freq * 1e-6

  meas ac pm_deg FIND deg_phase AT=gbw_freq
  let pm = 180 + pm_deg

  plot db_gain deg_phase
  print gain_DC
  print gbw_Mfreq
  print pm
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
